US08471005B2
Into an 8-dram vial, N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide (80 mg, 0.2 mmol), (R)-Oxiranemethanol (0.0350 g, 0.472 mmol), and Methanol (5.87 mL, 145 mmol) were added. The reaction was stirred at room temperature over the weekend. The solvent was removed under vacuum. The reaction mixture was purified via HPLC reverse phase chromatography with 0.1% TFA in Water and 0.1% TFA in ACN. The selected fractions were concentrated. The residue was partitioned with DCM and sat. NaHCO3. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered wand washed with DCM. The solvent was removed under vacuum to give N-[2-(2-{4-[4-((R)-2,3-Dihydroxy-propyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide as a yellow solid (20 mg, 21%). LCMS (E/I+) 596.11 (M+H). NMR 1H (DMSO-d6)-8.97 (s, 1H), 7.90-7.98 (m, 1H), 7.88 (d, 1H, J=8.21 Hz), 7.72 (s, 1H), 7.62-7.66 (m, 1H), 7.51-7.56 (m, 1H), 7.00 (d, 1H, J=4.67 Hz), 6.96 (d, 1H, J=4.67 Hz), 6.92 (bs, 1H), 6.72 (d, 1H, J=8.01 Hz), 4.51 (t, 1H, J=5.55), 4.34 (d, 1H, J=4.34 Hz), 3.82 (s, 3H), 2.18-3.70 (bm, 21H).

reactant | N-{2-[2-(2-Methoxy-4-piperazin-1-ylmethyl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-phenyl}-N-methyl-methanesulfonamide | 0.2 mmol, 80 mg | COC1=C(C=CC(=C1)CN1CCNCC1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C | C26H31N7O3S
reactant | (R)-Oxiranemethanol | 0.472 mmol, 0.0350 g | O1[C@@H](C1)CO | C3H6O2
reactant | Methanol | 145 mmol, 5.87 mL | CO | CH4O
product | N-[2-(2-{4-[4-((R)-2,3-Dihydroxy-propyl)-piperazin-1-ylmethyl]-2-methoxy-phenylamino}-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-phenyl]-N-methyl-methanesulfonamide | 20 mg, 21% | O[C@H](CN1CCN(CC1)CC1=CC(=C(C=C1)NC1=NN2C(C=N1)=CC=C2C2=C(C=CC=C2)N(S(=O)(=O)C)C)OC)CO | C29H37N7O5S
